US06710056B2
1-(4-Pyridyl)-piperidine-3-carboxylic acid hydrochloride:
A mixture of 1.8 g of ethyl 1-(4-pyridyl)-piperidine-3-carboxylate, 50 ml of dioxane and 20 ml of 1 M hydrochloric acid was heated under reflux for 5 hours. The solvent was evaporated, and the residue was washed with ethyl acetate to obtain the title compound.

reactant | ethyl 1-(4-pyridyl)-piperidine-3-carboxylate | 1.8 g | N1=CC=C(C=C1)N1CC(CCC1)C(=O)OCC | C13H18N2O2
reactant | hydrochloric acid | 1 M, 20 ml | Cl | ClH
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 1-(4-Pyridyl)-piperidine-3-carboxylic acid hydrochloride | Cl.N1=CC=C(C=C1)N1CC(CCC1)C(=O)O | InChI=1S/C11H14N2O2.ClH/c14-11(15)9-2-1-7-13(8-9)10-3-5-12-6-4-10;/h3-6,9H,1-2,7-8H2,(H,14,15);1H
